US08034811B2
To a stirred solution of potassium tert-butoxide (29.8 g) in DMSO (100 ml) was added 3-amino-pyridin (10.0 g). The dark red reaction mixture was stirred at room temperature for 45 minutes. A solution of di-tert-butyl-dicarbonate (30.14 g) in DMSO (50 ml) was added and the reaction mixture was stirred at room temperature for 90 minutes. The mixture was poured into ice-water and the pH of the mixture was adjusted to 6-7 by addition of glacial acetic acid. The mixture was extracted with EtOAc. The organic layer washed with water and brine and evaporated under reduced pressure. The remaining oil was passed through a pad of silica gel, first washing with dichloromethane then with EtOAc/dichloromethane 1/1. Fractions containing compound were evaporated under reduced pressure. The remaining oil was dissolved in diethyl ether (10 ml) and on addition of hexane (100-150 ml) a solid material resulted, that was isolated by filtration and gave pyridin-3-yl-carbamic acid tert-butyl ester. Step 2: The carbamate obtained in step 1 (6.71 g) was dissolved in THF (70 ml) and the mixture was cooled to −77° C. tert-Butyllithium (45 ml of a 1.7 M solution in pentane) was added drop-wise, and stirring was continued at −75° C. for 2.5 hours. Dry CO2 gas was bobbled though the mixture at −75° C. for 30 minutes. The mixture was then allowed to warm to room temperature and poured into ice-water. The mixture was extracted with EtOAc and the pH of the aqueous layer was adjusted to 7-8 and another extraction with EtOAc was performed. The pH of the aqueous layer was then adjusted to 5-6 with glacial acetic acid and the resulting precipitated material was isolated by filtration and dried under high vacuum, affording 3-tert-butoxycarbonylamino-isonicotinic acid (4.96 g). Step 3: The acid (4.96 g) obtained in step 2 was dissolved in DMF (70 ml) and N,N′-carbonyldiimidazole (4.04 g) was added. The reaction mixture was stirred at room temperature for 45 minutes and methanol (9.5 ml) and 4-dimethylaminopyridine (catalytic amount) was added. The mixture was stirred at room temperature for 2 hours. Water was added and the precipitated material was isolated by filtration and gave 3-tert-butoxy-carbonylamino-isonicotinic acid methyl ester (5.1 g). Step 4: The methyl ester (5.1 g) obtained in step 3 was heated to 185° C. for 5 minutes. The resulting brown material was suspended in EtOAc and filtrated through a pad of silica gel, washing with EtOAc. Silica gel was added to the combined filtrates and the solvent was evaporated under reduced pressure. The silica containing compound was heated to 160° C. for 10 minutes. The mixture was cooled to room temperature then re-heated to 160° C. for another 10 minutes. The silica was then washed with 5% methanol in EtOAc. The combined washings were evaporated under reduced pressure and the resulting oil was treated with diethyl ether (10 ml) and hexane (70 ml) and gave 3-amino-isonicotinic acid methyl ester as a solid material. Step 5: The amine (2.27 g) obtained in step 4 was dissolved in 1,2-dichloroethane (100 ml) and pyridine-4-carbaldehyde (1.92 g) was added followed by addition of sodium triacetoxy-borohydride (6.32 g). The reaction mixture was stirred at room temperature for 4 hours and saturated aqueous sodium bicarbonate was added. The mixture was extracted with dichloromethane and the organic layer was dried (MgSO4) and evaporated under reduced pressure. The residue was subjected to column chromatography on silica gel (elution with 5% methanol in EtOAc) and gave 3-[(pyridin-4-ylmethyl)-amino]-isonicotinic acid methyl ester. Step 6: The compound (577 mg) obtained in step 5 was dissolved in methanol (10 ml) and 2M sodium hydroxide (10 ml) was added. The mixture was stirred at room temperature for 15 minutes. The pH of the mixture was adjusted to 6 and the precipitated material was isolated by centrifugation and removing the solvent by suction. After drying under high vacuum the title compound was obtained as a white fine powder. 1H-NMR (DMSO-d6) δ 8.54 (d, 2H), 8.08 (s, 1H), 7.88 (d, 1H), 7.64 (d, 1H), 7.36 (d, 2H), 4.68 (s, 2H).

reactant | potassium tert-butoxide | 29.8 g | CC(C)([O-])C.[K+]
reactant | 3-amino-pyridin | 10.0 g | NC=1C=NC=CC1 | C5H6N2
reactant | di-tert-butyl-dicarbonate | 30.14 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | DMSO | 100 ml | CS(=O)C | C2H6OS
solvent | DMSO | 50 ml | CS(=O)C | C2H6OS
product | pyridin-3-yl-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC=1C=NC=CC1)=O | C10H14N2O2
